US07713978B2
N-[5-[cis-3,5-Dimethyl-1-piperazinyl]-2-(methyloxy)-3-pyridinyl]-3-fluoro-4-(5-methyl-2-furanyl)benzenesulfonamide Hydrochloride
A solution of N-[5-[cis-3,5-dimethyl-4-(phenylmethyl)-1-piperazinyl]-2-(methyloxy)-3-pyridinyl]-3-fluoro-4-(5-methyl-2-furanyl)benzenesulfonamide (D31) (60 mg, 0.1 mmol) in ethanol (5 ml) and 2M hydrochloric acid (0.5 ml) containing 10% palladium on carbon (10 mg) was stirred in a hydrogen atmosphere for 2 hours. The mixture was filtered through ‘celite’ and the solvent evaporated. Purification of the residue by flash chromatography eluting with 5% methanol in dichloromethane followed by treatment with 1.0M hydrogen chloride in diethyl ether gave the title compound (E13). MS (ES+) m/e 475 [M+H]+.

reactant | N-[5-[cis-3,5-dimethyl-4-(phenylmethyl)-1-piperazinyl]-2-(methyloxy)-3-pyridinyl]-3-fluoro-4-(5-methyl-2-furanyl)benzenesulfonamide | 0.1 mmol, 60 mg | C[C@@H]1CN(C[C@@H](N1CC1=CC=CC=C1)C)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC(=C(C=C1)C=1OC(=CC1)C)F | C30H33FN4O4S
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 2M, 0.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | N-[5-[cis-3,5-Dimethyl-1-piperazinyl]-2-(methyloxy)-3-pyridinyl]-3-fluoro-4-(5-methyl-2-furanyl)benzenesulfonamide Hydrochloride | Cl.C[C@@H]1CN(C[C@@H](N1)C)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC(=C(C=C1)C=1OC(=CC1)C)F | InChI=1S/C23H27FN4O4S.ClH/c1-14-12-28(13-15(2)26-14)17-9-21(23(31-4)25-11-17)27-33(29,30)18-6-7-19(20(24)10-18)22-8-5-16(3)32-22;/h5-11,14-15,26-27H,12-13H2,1-4H3;1H/t14-,15+;
